US04906621
A solution of 11.8 g of ethyl 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)-piperidine-2-carboxylate and 12.6 g of pyridinium chlorochromate in 175 ml methylene chloride is stirred under nitrogen at room temperature for 80 minutes. Mixture is filtered and purified by flash chromatography using ethyl acetate/hexane (25:75) to yield 1-(tert-butoxycarbonyl)-2-ethoxycarbonyl-piperidine-4-acetaldehyde.

reactant | ethyl 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)-piperidine-2-carboxylate | 11.8 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)CCO)C(=O)OCC | C15H27NO5
reactant | pyridinium chlorochromate | 12.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | 1-(tert-butoxycarbonyl)-2-ethoxycarbonyl-piperidine-4-acetaldehyde | C(C)(C)(C)OC(=O)N1C(CC(CC1)CC=O)C(=O)OCC | C15H25NO5
